US05463053
3,3-Dimethyl-4-hydroxyimino-1-[1-(R) -phenylethyl]-pyrrolidin-2-one
In 100 ml of ethanol was dissolved 11.85 g of 3,3-dimethyl-1-[1-(R)-phenylethyl]-pyrrolidine-2,4-dione. To the solution were added 8 g of hydroxylamine hydrochloride and 45 ml of triethylamine, followed by refluxing for 1 hour. The solvent was removed under reduced pressure, and to the residue was added 300 ml of chloroform. The chloroform solution was washed successively with a 10% citric acid aqueous solution and water and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure to yield 11.5 g of the titled compound.

reactant | 3,3-dimethyl-1-[1-(R)-phenylethyl]-pyrrolidine-2,4-dione | 11.85 g | CC1(C(N(CC1=O)[C@H](C)C1=CC=CC=C1)=O)C | C14H17NO2
reactant | hydroxylamine hydrochloride | 8 g | Cl.NO
reactant | triethylamine | 45 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3,3-Dimethyl-4-hydroxyimino-1-[1-(R) -phenylethyl]-pyrrolidin-2-one | 11.5 g | CC1(C(N(CC1=NO)[C@H](C)C1=CC=CC=C1)=O)C | C14H18N2O2
